US04173639
1-(2,6-Dimethoxybenzoyl)-3-(6-Cyclohexylsulfonyl-3-Pyridinyl)Urea
2-Cyclohexylsulfonyl-5-aminopyridine (1.0 gram) and 2,6-dimethoxybenzoyl isocyanate (0.9 gram) were mixed in 50 ml. of DMF and stirred at room temperature overnight (about 18 hours). The reaction mixture was then poured into water and filtered to separate the product. It was crystallized from ethyl acetate-hexanes, yield 0.5 gram, m.p., 123°-125° C.

reactant | 2-Cyclohexylsulfonyl-5-aminopyridine | 1.0 gram | C1(CCCCC1)S(=O)(=O)C1=NC=C(C=C1)N | C11H16N2O2S
reactant | 2,6-dimethoxybenzoyl isocyanate | 0.9 gram | COC1=C(C(=O)N=C=O)C(=CC=C1)OC | C10H9NO4
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(2,6-Dimethoxybenzoyl)-3-(6-Cyclohexylsulfonyl-3-Pyridinyl)Urea | COC1=C(C(=O)NC(=O)NC=2C=NC(=CC2)S(=O)(=O)C2CCCCC2)C(=CC=C1)OC | C21H25N3O6S
